US08110585B2
N-{[(1S,2S)-2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}propanamide
To a solution of 1-[(1S,2S)-2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine dihydrochloride (500 mg, 1.82 mmol) and triethylamine (1.02 mL, 7.29 mmol) in tetrahydrofuran (20 mL) was added propionic anhydride (281 μL, 2.19 mmol), and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→15/85) to give the title compound (477 mg, yield 100%).

reactant | 1-[(1S,2S)-2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine dihydrochloride | 1.82 mmol, 500 mg | Cl.Cl.CN1N=C2C=CC=C(C2=C1)[C@@H]1[C@H](C1)CN
reactant | triethylamine | 7.29 mmol, 1.02 mL | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 2.19 mmol, 281 μL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-{[(1S,2S)-2-(2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}propanamide | 477 mg, yield 100% | CN1N=C2C=CC=C(C2=C1)[C@@H]1[C@H](C1)CNC(CC)=O | C15H19N3O
